US04367238
A solution of 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetic acid (5.4 g) in acetic anhydride (15 ml) and hydriodic acid (55-58%, 30 ml) were treated in a similar manner to that of Example 10-(7). The resultant oily residue, i.e. 2-[2-hydroxy-3-(2-fluorophenoxy)phenyl]acetic acid was treated with acetic anhydride (10 ml) in a similar manner to that of Example 10-(7). The resultant crystalline residue was recrystallized from ethanol to give 7-(2-fluorophenoxy)-2,3-dihydrobenzofuran-2-one (3 g). mp 82°-84° C.

reactant | 2-[2-methoxy-3-(2-fluorophenoxy)phenyl]acetic acid | 5.4 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)O | C15H13FO4
reactant | 2-[2-hydroxy-3-(2-fluorophenoxy)phenyl]acetic acid | OC1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)O | C14H11FO4
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 30 ml | I | HI
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-(2-fluorophenoxy)-2,3-dihydrobenzofuran-2-one | 3 g | FC1=C(OC2=CC=CC=3CC(OC32)=O)C=CC=C1 | C14H9FO3
